US07456218B2
methyl 3-(4-{[2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methoxy}phenyl)propanoate
A solution of methyl 3-(4-hydroxyphenyl)propanoate (1.43 g, 7.94 mmol), [2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methanol (2.37 g, 7.94 mmol) and tributylphosphine (2.97 mL, 11.9 mmol) in toluene (120 mL) was stirred under ice-cooling and 1,1′-(azodicarbonyl)dipiperidine (3.00 g, 11.9 mmol) was added by small portions. The mixture was warmed to room temperature and stirred for 24 hrs. Hexane (60 mL) was added to the reaction mixture and the precipitated insoluble material was filtered off. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-20% ethyl acetate/hexane) to give the title compound as a colorless oil (3.05 g, yield 83%).

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 7.94 mmol, 1.43 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | [2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methanol | 7.94 mmol, 2.37 g | CC1=C(C=CC(=C1)OC1OCCCC1)C1=CC(=CC=C1)CO | C19H22O3
reactant | tributylphosphine | 11.9 mmol, 2.97 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 11.9 mmol, 3.00 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | 60 mL | CCCCCC | C6H14
product | methyl 3-(4-{[2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methoxy}phenyl)propanoate | 3.05 g, yield 83% | CC1=C(C=CC(=C1)OC1OCCCC1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C29H32O5
